US07094790B2
2-(5-Bromo-benzothiazol-2-yl)-ethanol
To a dry 100 mL flask, 2,2,6′,6′-tetra-methyl piperidine (0.56 g, 4 mmol) and 6 mL of THF was added and cooled to −78° C. Then n-BuLi (1.5 mL, 2.5M) was added rapidly, and the mixture of LiTMP was stirred for 3 hr. 5-Bromo-2-methyl-benzothiazole (0.75 g, 3.3 mmol) was added in solid form in to the reaction at −78° C., and after stirring for 4 hours at −78° C., 6 equivalents of para-formaldehyde was added to the reaction while stirring rapidly. The reaction was worked up by addition of sat. NH4Cl solution, and the reaction was extracted with CH2Cl2 dried, and concentrated in vacuo to give crude product, 1.02 g. The crude product was purified by flash chromatography, eluting with CH2Cl2, then with 20% MeOH/CH2Cl2 to elute the product. 1H NMR (400 MHz, CDCl3) d ppm 3.32 (t, J=5.76 Hz, 2 H) 4.11 (q, J=5.95 Hz, 2 H) 7.48 (dd, J=8.51, 1.92 Hz, 1 H) 7.70 (d, J=8.51 Hz, 1 H) 8.11 (d, J=1.92 Hz, 1 H)

reactant | n-BuLi | 2.5M, 1.5 mL | [Li]CCCC
reactant | LiTMP | [Li]N1C(CCCC1(C)C)(C)C
reactant | 5-Bromo-2-methyl-benzothiazole | 3.3 mmol, 0.75 g | BrC=1C=CC2=C(N=C(S2)C)C1 | C8H6BrNS
reactant | para-formaldehyde | 6 equivalents | C=O | CH2O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 2-(5-Bromo-benzothiazol-2-yl)-ethanol | BrC=1C=CC2=C(N=C(S2)CCO)C1 | C9H8BrNOS
